US06951881B2
Preparation of 2-[1-(2-Phenyl-1H-indol-3-yl)ethylidene]hydrazine-carboximidamide
A mixture of 2-phenylindole (193.3 mg, 1.0 mmol) and acetyl chloride (92 μL, 1.3 mmol) in CH2Cl2 is treated with tin tetrachloride (97.4 μL, 1.9 mmol) at room temperature, shaken for 6 h, quenched with saturated NaHCO3 and extracted with ethyl acetate. The extracts are combined and concentrated in vacuo to afford the 3-acetyl-2-phenylindole intermediate. A suspension of the thus-obtained 3-acetyl-2-phenylindole (47 mg, 0.2 mmol) in isopropanol and concentrated HCl (5 μL) is treated with aminoguanidine bicarbonate, heated at 80° C. for 2 h, cooled to room temperature and concentrated in vacuo. The resultant residue is purified by HPLC to afford the title product, 21.0 mg (36% yield), identified by HPLC1 and mass spectral analyses, (M+H) 292, retention time 3.9 min.

reactant | 3-acetyl-2-phenylindole | 0.2 mmol, 47 mg | C(C)(=O)C1=C(NC2=CC=CC=C12)C1=CC=CC=C1 | C16H13NO
reactant | aminoguanidine bicarbonate | C(O)(O)=O.NNC(=N)N
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | HCl | 5 μL | Cl | ClH
product | 2-[1-(2-Phenyl-1H-indol-3-yl)ethylidene]hydrazine-carboximidamide | 36% yield | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1C(C)=NNC(N)=N | C17H17N5
